US05354766
46a) 4-(4'-Methylbiphenyl-2-y1)semicarbazide
To an ice-cooling solution of (4'-methylbiphenyl-2-yl)carboxylic acid (3.0 g) and triethylamine (2.2 ml) in N,N-dimethylformamide (10 ml) was added° DPPA (3.4 ml) under nitrogen atmosphere, and the mixture was stirred for 4 hours at the same temperature. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried. The solution was added dropwise to benzene (150 ml) heated at 80° C. The mixture was then stirred for 20 minutes at the same temperature. The isocyanate solution thus prepared was added dropwise to a solution of hydrazine (2.0 ml) in benzene (50 ml) heated at 70° C during the period of 90 minutes. The powdery product obtained by evaporating the solvent under reduced pressure was washed with ethyl acetate and dried to afford the title compound as white power (2.9 g, 85%), m.p.148-151 ° C.

reactant | (4'-methylbiphenyl-2-yl)carboxylic acid | 3.0 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)O | C14H12O2
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | DPPA | 3.4 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | hydrazine | 2.0 ml | NN | H4N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 4-(4'-Methylbiphenyl-2-y1)semicarbazide | CC1=CC=C(C=C1)C1=C(C=CC=C1)NC(NN)=O | C14H15N3O
